US09034880B2
Preparation of 5-(4-fluorophenethyl)-7-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (Compound 305)
The title compound is prepared by following Method 8 by using 1-(2-bromoethyl)-4-fluorobenzene, 3-chlorophenylhydrazine hydrochloride, triethylamine and N-methyl-4-piperidone

reactant | 1-(2-bromoethyl)-4-fluorobenzene | BrCCC1=CC=C(C=C1)F | C8H8BrF
reactant | 3-chlorophenylhydrazine hydrochloride | Cl.ClC=1C=C(C=CC1)NN
reactant | N-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-(4-fluorophenethyl)-7-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | FC1=CC=C(CCN2C3=C(C=4C=CC(=CC24)Cl)CN(CC3)C)C=C1 | C20H20ClFN2
